US08216696B2
Step 1: Synthesis of 2-(4-bromophenyl)imidazo[1,2-a]pyridine
1.0 g (11 mmol) of 2-aminopyridine, 3.0 g (11 mmol) of 4-bromophenacyl bromide, and 1.9 g (14 mmol) of sodium hydrogen carbonate were put in a 50 mL three-neck flask, and the air in the flask was replaced with nitrogen. This mixture was added with 10 mL of ethanol, and then heated and stirred at 80° C. for six hours. After the stirring, the mixture was added with water and subjected to suction filtration to give a solid. The obtained solid was washed with water and methanol in this order, whereby 2.3 g of the target white solid was obtained in a yield of 76%.

reactant | 2-aminopyridine | 11 mmol, 1.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | 4-bromophenacyl bromide | 11 mmol, 3.0 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | sodium hydrogen carbonate | 14 mmol, 1.9 g | C(O)([O-])=O.[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-bromophenyl)imidazo[1,2-a]pyridine | 2.3 g, yield of 76% | BrC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C13H9BrN2
